US05273999
Preparation of 2-[(5-Bromopentyl)oxy]-5-[[4-(ethoxycarbonyl)phenyl]carbonyl]benzenepropanoic Acid Ethyl Ester
Starting with 0.484 g (1.31 mmol) of 5-[[4-(ethoxycarbonyl)phenyl]carbonyl]-2-hydroxybenzenepropanoic acid ethyl ester, and 2.4 g (10.44 mmol) of 1,5-dibromopentane, the title compound was obtained in 72.6% yield as a white solid, mp 76.5°-78° C., using the procedure of example 21.

reactant | 5-[[4-(ethoxycarbonyl)phenyl]carbonyl]-2-hydroxybenzenepropanoic acid ethyl ester | 1.31 mmol, 0.484 g | C(C)OC(CCC1=C(C=CC(=C1)C(=O)C1=CC=C(C=C1)C(=O)OCC)O)=O | C21H22O6
reactant | 1,5-dibromopentane | 10.44 mmol, 2.4 g | BrCCCCCBr | C5H10Br2
product | 2-[(5-Bromopentyl)oxy]-5-[[4-(ethoxycarbonyl)phenyl]carbonyl]benzenepropanoic Acid Ethyl Ester | 72.6% yield | C(C)OC(CCC1=C(C=CC(=C1)C(=O)C1=CC=C(C=C1)C(=O)OCC)OCCCCCBr)=O | C26H31BrO6
